US04962103
(2R,4R)-1-p-Nitrobenzyloxycarbonyl-2-carboxymethyl-4-hydroxypyrrolidine (5.39 g) was dissolved in 54 ml of dry methanol, and 0.9 ml of conc. sulfuric acid was added thereto, followed by refluxing for 4 hours. The reaction mixture was neutralized with 1N sodium hydroxide solution and distilled to remove the solvent. To the residue was added ethyl acetate, and the mixture was washed with water, dried over anhydrous sodium sulfate and distilled to obtain (2S,4R)-1-p-nitrobenzyloxycarbonyl-2-methoxycarbonylmethyl-4-hydroxypyrrolidine.

reactant | (2R,4R)-1-p-Nitrobenzyloxycarbonyl-2-carboxymethyl-4-hydroxypyrrolidine | 5.39 g | [N+](=O)([O-])C1=CC=C(COC(=O)N2[C@H](C[C@H](C2)O)CC(=O)O)C=C1 | C14H16N2O7
reactant | sulfuric acid | 0.9 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | methanol | 54 ml | CO | CH4O
product | (2S,4R)-1-p-nitrobenzyloxycarbonyl-2-methoxycarbonylmethyl-4-hydroxypyrrolidine | [N+](=O)([O-])C1=CC=C(COC(=O)N2[C@@H](C[C@H](C2)O)CC(=O)OC)C=C1 | C15H18N2O7
